US07977352B2
F.19 1-Cyclobutyl-4-(4-nitrophenyl)piperazine
Following the general procedure described above for the synthesis of 1-(4-nitrophenyl)-4-(pentan-3-yl)piperazine, treatment of 1-(4-nitrophenyl)piperazine (5.00 g, 24.1 mmol, 1.0 equiv.) with cyclobutanone (3.38 g, 48.3 mmol, 2 equiv.) in DCM (100 mL) at RT for 72 h provided the title compound as a yellow solid (4.96 g, 99% recovery, 87% purity as determined by LC/MS analysis @ UV 254 nm detection). In this case, upon addition of hexane (25 mL) to the crude residue, obtained from evaporation of the DCM extract, and stirring for 24 h the product precipitated from solution, is collected by filtration, washed with hexanes (2×25 ml), and was dried under vacuum. The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C14H19N3O2, 261; [M+H]+ found, 262.

reactant | 1-(4-nitrophenyl)-4-(pentan-3-yl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(CC)CC | C15H23N3O2
reactant | 1-(4-nitrophenyl)piperazine | 24.1 mmol, 5.00 g, 1.0 equiv. | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | cyclobutanone | 48.3 mmol, 3.38 g, 2 equiv. | C1(CCC1)=O | C4H6O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Cyclobutyl-4-(4-nitrophenyl)piperazine | 4.96 g | C1(CCC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H19N3O2
